US05272171
3-(2'-Hydroxy-4',6'-dimethylphenyl)-3,3-dimethylpropanol (IVa)
A solution of compound IIIa (27 g, 132.2 mmol) in dry tetrahydrofuran (THF, 100 mL) was added dropwise to a stirred suspension of 95% lithium aluminum hydride (LAH, 5.3 g, 132.5 mmol) in dry THF (250 mL) in 30 min period, so that the temperature did not rise for the suspension to reflux. The reaction mixture was stirred vigorously using a mechanical stirrer for 30 min. The excess LAH was quenched with 10% aqueous HCl solution (15 mL). The insoluble material was filtered off and washed with EtOAc. The solvent was evaporated in vacuo from the combined filtrate and EtOAc washing. The residue, thus obtained, was taken into EtOAc (150 mL). The ethyl acetate layer was washed with brine (2×50 mL) and dried over anhydrous sodium sulfate. The desiccant was filtered off and the filtrate was concentrated in vacuo to obtain a gummy material. To this gummy material was added hexane/acetone (20 mL, 9:1, v/v) and boiled for 2 min on a steam bath. The title compound, IVa, (23.3 g, 111.9 mmol, Y: 84.6%) crystallized out from the mixture upon cooling in an ice bath; mp, 116-117° C.; 1H-NMR (300 MHz, acetone-d6) δ ppm: 1.52 (6H, s, 3,3-Me2), 2.1 (3H, s, 6'-Me), 2.17 (2H, t, J=7.7 Hz, 2-H 2), 2.43 (3H, s, 4'-Me), 3.14 (1H, t, J=5.2 Hz, 1-OH, exchanged with D2O), 3.39-3.45 (2H, m, 1-H2), 6.37 (1H, s, Ar-H), 6.49 (1H, s, Ar-H) 7.98 (1H, s, 2'-OH, exchanged D2O); MS (Isobutane-DCI) m/e: 209 (M+H)+ ; IR (KBr) ν max: 3510, 3230, 1310, 850 cm-1.

reactant | lithium aluminum hydride | 132.5 mmol, 5.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
reactant | hexane acetone | CCCCCC.CC(=O)C
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | THF | 250 mL | O1CCCC1 | C4H8O
product | 3-(2'-Hydroxy-4',6'-dimethylphenyl)-3,3-dimethylpropanol | OC1=C(C(=CC(=C1)C)C)C(CCO)(C)C | C13H20O2
